2152-03-29 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2152-3-28**] 11:29 PM
   - received 2upRBCs overnight
   - BP dipped to low 80s though continued to have decent UOP, bolused
   500cc LR x 2 & BPs improved
   - pt had some R sided abd pain that resolved overnight
   Today, pt feeling well, no abd pain, no CP/SOB.
   Allergies:
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Nitrofurantoin
   Nausea/Vomiting
   Acyclovir
   Rash;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Flowsheet Data as of  [**2152-3-29**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.8
C (96.5
   HR: 70 (70 - 90) bpm
   BP: 92/41(54) {89/38(52) - 124/88(96)} mmHg
   RR: 15 (10 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
           Total In:
                                                                    722 mL
                                                                  2,309 mL
   PO:
           TF:
   IVF:
                                                                     58 mL
                                                                  1,559 mL
   Blood products:
                                                                    664 mL
                                                                    750 mL
   Total out:
                                                                  1,480 mL
                                                                    740 mL
   Urine:
                                                                  1,480 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -758 mL
                                                                  1,569 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   GEN: NAD, comfortable
   HEENT: pale, NCAT
   CV: RRR no apprec m
   RESP: CTAB no w/r
   ABD: soft, NT/ND, BS present
   EXTR: trace edema
   Labs / Radiology
   CXR [**3-28**]:
   FINDINGS:  The patient is rotated resulting in abnormal configuration o
   f the
   mediastinum.  This has been seen on other prior exams.  No consolidatio
   n or
   edema is evident.  Small calcified nodules are noted in the left upper
   lobe.
   There is minimal tortuosity of the thoracic aorta.  The cardiac silhoue
   tte
   remains normal in size.  No effusion or pneumothorax is evident.  There
    are
   bridging osteophytes throughout the thoracic spine.  The bones are diff
   usely
   osteopenic.
   IMPRESSION:  Stable chest x-ray examination within limitations.  No acu
   te
   pulmonary process.
   160 K/uL
   8.8 g/dL
   72 mg/dL
   1.3 mg/dL
   21 mEq/L
   4.1 mEq/L
   90 mg/dL
   115 mEq/L
   146 mEq/L
   25.0 %
   5.8 K/uL
        [image002.jpg]
                             [**2152-3-28**]  10:45 PM
                             [**2152-3-29**]  05:15 AM
   WBC
   6.7
   5.8
   Hct
   22.0
   25.0
   Plt
   214
   160
   Cr
   1.3
   TropT
   0.04
   Glucose
   72
   Other labs: PT / PTT / INR:25.3/30.9/2.5, CK / CKMB /
   Troponin-T:43/4/0.04, Differential-Neuts:62.4 %, Lymph:29.1 %, Mono:4.4
   %, Eos:3.7 %, Ca++:7.8 mg/dL, Mg++:2.4 mg/dL, PO4:3.6 mg/dL
   Microbiology: Urine & Blood Cx pending [**2152-3-28**]
   Assessment and Plan
   84F h/o HTN, hyperlipidemia, DM2, DVT after fem-[**Doctor Last Name 114**] bypass in [**4-17**] on
   warfarin, recent GIB from angiectasias with supratherapeutic INR and
   LGIB, hematocrit 17.
   .
   # GI Bleed: likely this is another bleed from angioectasia in setting
   of supratherapeutic INR.  Pt has received 2u FFP and Vitamin K for
   reversal of INR, came dn from 7 to 2.2 this am.  Pt received 2upRBCs &
   hct bumped from 22 to 25, received 500cc IVF but still an inappropriate
   rise, suggesting ongoing bleed.  Will transfuse an addl unit pRBCs now
   & f/u post transfusion hct. After d/w GI, will give an addl 2u FFP now
   for possible EGD later today.
   - f/u post transfusion hct & post FFP INR
   - t/b with GI later today regarding possible EGD
   - 3 large bore [**Name (NI) 1337**] (pt refusing CVL)
   - QID HCT, transfuse for goal hct >27
   - PPI IV BID, continue to monitor on telemetry
   - holding BB, ACEI and lasix
   - f/u GI recs
   .
   # R/o ACS: pt is high risk for demand ischemia in setting of blood
   loss. Pt also has borderline EKG changes, but its denying  CP/Sob &
   first 2 sets of cardiac enzymes are negative.
   - f/u third set of CE
   - continue to monitor on telemetry, holding BB in setting of GIB &
   marginal BP overnight
   .
   # DVT: DVT diagnosed in [**2-17**] post op & treated with coumadin. LENIs
   redone [**2152-2-2**] with superficial DVT still present. PCP decided to
   restart coumadin after first bleed stabilized. Now, with repeat GIB,
   would discuss with family & PCP but recommend not  continuing coumadin.
   Also, likely not clinically indicated >12mths s/p post-op DVT &
   superficial DVT low risk to embolize.
   - holding coumadin for now, reversing INR for EGD today with FFP
   - may benefit from IVC filter placement, but depends on coumadin
   decision
   .
   # ARF: likely prerenal azotemia in setting of blood loss, pt had a
   non-gap acidosis on adm that has resolved with IVF resuscitation.  BUN
   still elevated, likely [**2-12**] to GI bleed.  Pt having good UOP &
   normotensive
   - gentle IVF with D5 1/2NS at 75cc/hr for a total of 2L
   - hold ACEI for now, but plan to restart once BP stable & creatinine
   back to baseline
   .
   # UTI: now s/p 3 days of levaquin and no sx of UTI, foley in place
   - f/u urine cx, but would not give further abx now
   .
   # PVD: Per last admission, aspirin and plavix had not been restarted
   - holding all anticoagulation in setting of GIB
   .
   # HTN: holding Lisinopril and metoprolol in setting of GI bleed/low BP
   .
   # DM: holding glipizide in setting of ARF
   - ISS for now
   - Continue neurontin for neuropathy.
   .
   # OA- continue fentanyl patch per home regimen
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines: 20 Gauge - [**2152-3-28**] 06:00 PM
   18 Gauge - [**2152-3-28**] 06:00 PM
   Arterial Line - [**2152-3-28**] 11:29 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI [**Hospital1 **]
   Code status: DNR / DNI
   Disposition:ICU

2152-03-29 10:10:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84 yr old woman with known jejunal angioectasia restared on couamdin
   for recent DVT, presents with hypotension, anemia and guaic positive
   stools.
   BP improved after 2L IVF.
   24 Hour Events:
   Hct 17 --> 22 with 2 units FFP, 2 units PRBC
   2 additional units of PRBC with Hct increased to 25.
   A line placed.
   Allergies:
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Nitrofurantoin
   Nausea/Vomiting
   Acyclovir
   Rash;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-3-29**] 10:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36
C (96.8
   HR: 72 (70 - 90) bpm
   BP: 101/43(64) {68/33(46) - 122/50(78)} mmHg
   RR: 19 (10 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
           Total In:
                                                                    722 mL
                                                                  2,973 mL
   PO:
           TF:
   IVF:
                                                                     58 mL
                                                                  1,848 mL
   Blood products:
                                                                    664 mL
                                                                  1,125 mL
   Total out:
                                                                  1,480 mL
                                                                  1,160 mL
   Urine:
                                                                  1,480 mL
                                                                  1,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -758 mL
                                                                  1,813 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, No(t)
   Anxious
   Eyes / Conjunctiva: Conjunctiva pale
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   160 K/uL
   66 mg/dL
   1.3 mg/dL
   23 mEq/L
   4.1 mEq/L
   74 mg/dL
   117 mEq/L
   145 mEq/L
   25.0 %
   5.8 K/uL
        [image002.jpg]
                             [**2152-3-28**]  10:45 PM
                             [**2152-3-29**]  05:15 AM
   WBC
   6.7
   5.8
   Hct
   22.0
   25.0
   Plt
   214
   160
   Cr
   1.3
   1.3
   TropT
   0.04
   Glucose
   72
   66
   Other labs: PT / PTT / INR:22.4/31.4/2.2, CK / CKMB /
   Troponin-T:43/4/0.04, Differential-Neuts:62.4 %, Lymph:29.1 %, Mono:4.4
   %, Eos:3.7 %, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Microbiology: Urine and blood cx pending
   Assessment and Plan
   84 yr old woman with known jejunal angioectasia restared on couamdin
   and presents with hypotension, anemia and guaic positive stools
   1.       GIB: likely from angioectasia in setting of elevated INR
   (quinoline + couadin). Got vit K 10 mg IV and FFP. GI to scope possible
   today.  Holding bblocker, ACEI, lasix. Hemodynamics improved with
   resuscitation.
   2.       DVT: anticogulation to be indefinitely discontinued.  [**Month (only) 60**]
   eventually need IVC filter. LENIs pending.
   3.       Mild ECG changes but suspect situs invertus based on xray.
   Rule out MI. First set is flat. No evidence of ACS. \
   4.       ARF; likely pre-renal, hold ACEI, trend after resuscitation
   5.       DM: holding glipizde with ARF, SSRI
   6.       Pain: Fen ptach and Neurontin
   7.       UTI: check UA, s/p 3 days of Rx - hold ABX pending cultures
   8.       FEN: NPO
   9.       Access: EJ (right), 2 PIV, refused CVL
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2152-3-28**] 06:00 PM
   18 Gauge - [**2152-3-28**] 06:00 PM
   Arterial Line - [**2152-3-28**] 11:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation
   Code status: DNR/DNI
   Disposition :ICU
   Total time spent: 32 minutes, Patient is critically ill

2152-03-30 08:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- GI will scope patient once called out to floor
   -- INR reversed to 1.1 this am
   -- HCT stable at 30 s/p total 5u pRBCs
   -- patient w/ T of 100.8, started Cefepime for UTI
   -- likely c/o to floor today
   Pt doing well this am, denies abd pain, SOB, but hungry & would like to
   eat.
   Allergies:
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Nitrofurantoin
   Nausea/Vomiting
   Acyclovir
   Rash;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2152-3-29**] 07:45 PM
   Other medications:
   Flowsheet Data as of  [**2152-3-30**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.2
C (99
   HR: 82 (71 - 96) bpm
   BP: 153/56(89) {95/39(59) - 174/65(106)} mmHg
   RR: 22 (16 - 42) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  4,455 mL
                                                                    726 mL
   PO:
             TF:
   IVF:
                                                                  2,755 mL
                                                                    726 mL
   Blood products:
                                                                  1,700 mL
   Total out:
                                                                  2,525 mL
                                                                    750 mL
   Urine:
                                                                  2,525 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,930 mL
                                                                    -24 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: 7.37///23/
   Physical Examination
   GEN: NAD
   HEENT: NCAT
   CV: RRR no m/r/g
   RESP: CTAB no w/r
   ABD: soft, NT/ND, BS present
   EXTR: LLE with +1 pitting edema, RLE no edema
   Labs / Radiology
   217 K/uL
   11.1 g/dL
   102 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.1 mEq/L
   43 mg/dL
   115 mEq/L
   147 mEq/L
   32.7 %
   7.6 K/uL
        [image002.jpg]
                             [**2152-3-28**]  10:45 PM
                             [**2152-3-29**]  05:15 AM
                             [**2152-3-29**]  10:37 AM
                             [**2152-3-29**]  04:19 PM
                             [**2152-3-29**]  09:44 PM
                             [**2152-3-30**]  04:28 AM
   WBC
   6.7
   5.8
   7.6
   Hct
   22.0
   25.0
   30.4
   30.3
   29.7
   32.7
   Plt
   [**Telephone/Fax (3) 1725**]
   Cr
   1.3
   1.3
   1.1
   TropT
   0.04
   0.04
   Glucose
   72
   66
   102
   Other labs: PT / PTT / INR:13.3/23.3/1.1, CK / CKMB /
   Troponin-T:38/4/0.04, Differential-Neuts:62.4 %, Lymph:29.1 %, Mono:4.4
   %, Eos:3.7 %, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   84F h/o HTN, DM2, GI bleed & DVT after fem-[**Doctor Last Name 114**] bypass in [**4-17**],
   restarted Warfarin recently & p/w likely recurrent GIB from
   angiectasias, supratherapeutic INR of 7 and hct of 17.  INR now
   reversed and hct stable at 30 after 5u pRBCs.
   # GI Bleed: likely this is another bleed from angioectasia in setting
   of supratherapeutic INR.  Pt has received at total of 4u FFP and Vit K
   for reversal of INR, came dn from 7 to 1.1 today.  Pt received a total
   of 5 u pRBCs & hct has been stable at 30.  Pt is hemodynamically
   stable, plan for EGD in am.
   - 3 large bore [**Name (NI) 1337**] (pt refusing CVL)
   - f/u TID HCT, transfuse for goal hct >30
   - PPI IV BID
   - continue to monitor on telemetry
   - adv clears today, NPO at MN for EGD in am
   - f/u GI recs
   .
   # UTI/ID: Pt had a low grade temp of 100.7, Blood Cx sent. UA on adm
   was + for infection & recently treated with 3 days of levaquin for
   UTI.  Urine & Blood Cx [**3-28**] still NGTD.  Pt with mult drug allergies &
   recent Urine Cx sensitivities for Entero.
   - Cefepime 1gram q24hr for 3 day course
   - f/u urine culture
   .
   # DVT: DVT diagnosed in [**2-17**] post op & treated with coumadin. LENIs
   redone [**2152-2-2**] with superficial DVT still present. PCP decided to
   restart coumadin after first bleed stabilized. Now, with repeat GIB,
   would recommend not continuing coumadin.
   - holding coumadin for now, INR reversed for EGD
   - f/u lower extremity U/S for e/o ongoing DVT, may need IVC filter
   placement
   .
   # ARF: likely prerenal azotemia in setting of blood loss, pt had a
   non-gap acidosis on adm that has resolved with IVF resuscitation.  BUN
   trended down o/n, remaining elev likely [**2-12**] to GI bleed.  Pt having
   good UOP & hypertensive now
   - restart Lisinopril 40mg & Metoprolol 25mg TID  today
   # R/o ACS: pt is high risk for demand ischemia in setting of blood
   loss. Pt had borderline EKG changes on adm, but denied CP/Sob & three
   sets of CE negative
   - continue to monitor on telemetry
   - restart BB & ACE-I today given hypertension
   .
   # PVD: Per last admission, aspirin and plavix had not been restarted
   - per vascular surgery, getting arterial duplex while in house
   - holding all anticoagulation in setting of GIB
   # HTN: restart home regimen Lisinopril 40mg daily and Metoprolol 25mg
   TID
   .
   # DM: holding glipizide in setting of ARF
   - ISS for now
   - Continue neurontin for neuropathy.
   # OA- continue fentanyl patch per home regimen
   ICU Care
   Nutrition: adv clears today, NPO at MN for EGD in am
   Glycemic Control:  ISS
   Lines: 20 Gauge - [**2152-3-28**] 06:00 PM
   18 Gauge - [**2152-3-28**] 06:00 PM
   Arterial Line - [**2152-3-28**] 11:29 PM
   Prophylaxis:  DVT:  pneumoboots
   Stress ulcer:  PPI
   Code status: DNR / DNI
   Disposition: possible call out to floor

2152-03-30 11:43:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Hypotension resolved.
   Allergies:
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Nitrofurantoin
   Nausea/Vomiting
   Acyclovir
   Rash;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2152-3-29**] 07:45 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-3-30**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.9
C (100.2
   HR: 82 (76 - 96) bpm
   BP: 153/56(89) {95/39(59) - 174/65(106)} mmHg
   RR: 22 (16 - 42) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  4,455 mL
                                                                  1,354 mL
   PO:
             TF:
   IVF:
                                                                  2,755 mL
                                                                  1,354 mL
   Blood products:
                                                                  1,700 mL
   Total out:
                                                                  2,525 mL
                                                                    750 mL
   Urine:
                                                                  2,525 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,930 mL
                                                                    604 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: 7.37///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.1 g/dL
   217 K/uL
   102 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.1 mEq/L
   43 mg/dL
   115 mEq/L
   147 mEq/L
   32.7 %
   7.6 K/uL
        [image002.jpg]
                             [**2152-3-28**]  10:45 PM
                             [**2152-3-29**]  05:15 AM
                             [**2152-3-29**]  10:37 AM
                             [**2152-3-29**]  04:19 PM
                             [**2152-3-29**]  09:44 PM
                             [**2152-3-30**]  04:28 AM
   WBC
   6.7
   5.8
   7.6
   Hct
   22.0
   25.0
   30.4
   30.3
   29.7
   32.7
   Plt
   [**Telephone/Fax (3) 1725**]
   Cr
   1.3
   1.3
   1.1
   TropT
   0.04
   0.04
   Glucose
   72
   66
   102
   Other labs: PT / PTT / INR:13.3/23.3/1.1, CK / CKMB /
   Troponin-T:38/4/0.04, Differential-Neuts:62.4 %, Lymph:29.1 %, Mono:4.4
   %, Eos:3.7 %, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Microbiology: Recent UTI - enterobacter, sensitivities reviewed.
   Assessment and Plan
   84 yr old woman with known jejunal angioectasia restared on couamdin
   and presents with hypotension, anemia and guaic positive stools
    1.       GIB: likely from angioectasia in setting of elevated INR
   (quinoline + couadin). Got vit K 10 mg IV, FFP, total 5 units PRBC. Hct
   more stable. INR reversed. EGD likely in AM.
    Holding bblocker, ACEI, lasix. Hemodynamics improved.
   2.       DVT: anticogulation to be indefinitely discontinued.  [**Month (only) 60**]
   eventually need IVC filter. LENIs pending.
   3.       Mild ECG changes:  but suspect situs invertus based on xray.
   Rule out MI. First set is flat. No evidence of ACS.
   4.       ARF: likely pre-renal, hold ACEI, back to baseline creat 1.1.
   5.       DM: holding glipizde with ARF, SSRI
   6.       Pain: Fen patch and Neurontin
   7.       UTI: u/a positive despite 3 days of levoflox. Due to positive
   u/a, low grade fever, multiple allergies, will give cefepime x 3 d
   8.       FEN: clear liquid diet
   9.       Access: EJ (right), 2 PIV, refused CVL
   10.     HTN: restart beta blocker
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale20 Gauge - [**2152-3-28**]
   06:00 PM
   18 Gauge - [**2152-3-28**] 06:00 PM
   Arterial Line - [**2152-3-28**] 11:29 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor, Total time spent: 30 minutes